US04968698
102A. (E)-4-Bromo-3-(2-thienyl)acrylic acid
Malonic acid (16.2 g) was added to a solution of 4-bromothiophen-2-aldehyde (25.1 g) in pyridine (100 cm3) and piperidine (3.2 cm3) and the resulting mixture was heated at 100° C. for 6.5 hours, allowed to cool to room temperature overnight and was then evaporated down to give a beige semi-solid. The semi-solid was treated with aqueous potassium hydroxide solution and the resulting mixture was diluted with water (50 cm3), acidified with concentrated hydrochloric acid (90 cm3) and then cooled to yield a precipitate which was filtered off, washed with ether/40-60 petrol and was then sucked dry (26.1 g) m.p. 167°-169° C. (aqueous methanol) Analysis; Calculated; C, 36.05; H, 2.15; Found; C, 36.30; H, 2.03.

reactant | Malonic acid | 16.2 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | 4-bromothiophen-2-aldehyde | 25.1 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 90 cm3 | Cl | ClH
solvent | pyridine | 100 cm3 | N1=CC=CC=C1 | C5H5N
solvent | piperidine | 3.2 cm3 | N1CCCCC1 | C5H11N
solvent | water | 50 cm3 | O | H2O
product | (E)-4-Bromo-3-(2-thienyl)acrylic acid | BrC=1C=C(SC1)/C=C/C(=O)O | C7H5BrO2S
